US09303016B2
Synthesis of 2-azatricyclo[3.3.1.13,7]decane-5-carboxamide, Intermediate-12
To a 100 mL RB flask fitted with magnetic stirrer was charged tert-butyl 5-carbamoyl-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-11 (0.1 g, 0.0357 mmol) in DCM (5 mL). The reaction mixture was cooled to 0° C. and trifluoroacetic acetic anhydride (0.21 g, 0.17 mmol) was added and stirred for 4 hours. After completion of the reaction (reaction was monitored by LCMS) reaction mixture was concentrated followed by trituration with mixture of hexane:ether (1:1) to give Intermediate-12 (0.09 g, yield=90%).

reactant | tert-butyl 5-carbamoyl-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | C(N)(=O)C12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C15H24N2O3
reactant | trifluoroacetic acetic anhydride | 0.17 mmol, 0.21 g | C(C)(=O)OC(C(F)(F)F)=O | C4H3F3O3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-azatricyclo[3.3.1.13,7]decane-5-carboxamide | yield=90% | C12NC3CC(CC(C1)C3)(C2)C(=O)N | C10H16N2O
